US04721809
4-methylsulfonamido-N-[2-[(1-methylethyl)amino]ethyl]benzene sulfonamide
4-methylsulfonamidobenzenesulfonyl chloride (2.70 g) was added portionwise to a 0.01 mole portion of N-isopropylethylenediamine and triethylamine (0.01 mole) in methylene chloride (250 ml) to obtain a white solid which precipitated from the methylene chloride reaction mixture 2.62 g, m.r. 180°-182° C. This solid was washed well with methylene chloride, dissolved in isopropanol/HCl/methanol and the methanol boiled away. The product was precipitated and filtered to yield 1.65 g, m.r. 158°-160° C.(d).

reactant | 4-methylsulfonamidobenzenesulfonyl chloride | 2.70 g | CS(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C7H8ClNO4S2
reactant | N-isopropylethylenediamine | C(C)(C)NCCN | C5H14N2
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 4-methylsulfonamido-N-[2-[(1-methylethyl)amino]ethyl]benzene sulfonamide | CS(=O)(=O)NC1=CC=C(C=C1)S(=O)(=O)NCCNC(C)C | C12H21N3O4S2
